US07312241B2
3,4-Dimethoxybenzoyl chloride (4.01 g, 20 mmol), 1,2-diethylbenzene (2.68 g, 20 mmol), and aluminum chloride (2.93 g, 22 mmol) were treated in the same manner as described above for the synthesis of 3-(3,4-dimethoxy-phenyl)-3-(4-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (10% EtOAc in hexane gradient to 20% EtOAc in hexane in 40 min.) to give (3,4-diethyl-phenyl)-(3,4-dimethoxy-phenyl)-methanone as an orange oil (2.45 g, 41%). The product was carried over without further purification to the next step.

reactant | 3,4-Dimethoxybenzoyl chloride | 20 mmol, 4.01 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 1,2-diethylbenzene | 20 mmol, 2.68 g | C(C)C1=C(C=CC=C1)CC | C10H14
reactant | aluminum chloride | 22 mmol, 2.93 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-(3,4-dimethoxy-phenyl)-3-(4-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC=C(C=C1)OC | C18H17NO3
product | (3,4-diethyl-phenyl)-(3,4-dimethoxy-phenyl)-methanone | 2.45 g, 41% | C(C)C=1C=C(C=CC1CC)C(=O)C1=CC(=C(C=C1)OC)OC | C19H22O3
